US07115611B2
A] In analogy to the procedures described in examples 8A] and 31B], 3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 60B]) was reacted with 2-bromomethyl-5-(4-trifluoromethyl-phenyl)-pyrimidine (example 63C]) to give 3-{2-methyl-4-[5-(4-trifluoromethyl-phenyl)-pyrimidin-2-ylmethoxy]-phenyl}-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as off-white solid.

reactant | 3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)O)C)=O | C12H16O3
reactant | 2-bromomethyl-5-(4-trifluoromethyl-phenyl)-pyrimidine | BrCC1=NC=C(C=N1)C1=CC=C(C=C1)C(F)(F)F | C12H8BrF3N2
product | 3-{2-methyl-4-[5-(4-trifluoromethyl-phenyl)-pyrimidin-2-ylmethoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OCC1=NC=C(C=N1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C24H23F3N2O3
